US06169086A
1) Preparation of 2-Fluoro-3-methylthiopyridine
To 140 ml of an anhydrous THF solution of 7.7 g of diisopropylamine was added 50 ml (1.6 M solution in hexane) of n-butyllithium at −78° C., and the mixture was stirred at that temperature for 30 minutes. To the reaction mixture was added 10 ml of a THF solution of 7.4 g of 2-fluoropyrimidine, followed by stirring at the same temperature for 30 minutes. To the reaction mixture was further added a THF solution of 8.61 g of dimethyl disulfide, followed by stirring at the same temperature for 20 minutes. The reaction mixture was poured into about 200 ml of water, and the aqueous layer was extracted twice with ethyl acetate. The organic layers were combined and washed with a saturated sodium chloride aqueous solution and dried over anhydrous sodium sulfate. The solvent was evaporated, and the residue was subjected to silica gel column chromatography using a mixture of ethyl acetate and hexane (1:19 by volume) as a developing solution. The fraction containing the desired compound was concentrated to yield 6.11 g of the title compound.

reactant | diisopropylamine | 7.7 g | C(C)(C)NC(C)C | C6H15N
reactant | n-butyllithium | 1.6 M, 50 ml | C(CCC)[Li]
reactant | 2-fluoropyrimidine | 7.4 g | FC1=NC=CC=N1 | C4H3FN2
reactant | dimethyl disulfide | 8.61 g | CSSC | C2H6S2
solvent | water | about 200 ml | O | H2O
solvent | THF | C1CCOC1 | C4H8O
solvent | THF | 10 ml | C1CCOC1 | C4H8O
solvent | THF | 140 ml | C1CCOC1 | C4H8O
product | 2-Fluoro-3-methylthiopyridine | 6.11 g | FC1=NC=CC=C1SC | C6H6FNS
